US05273999
A mixture of 1.8 g (10 mmol) of 2-hydroxybenzenepropanoic acid methyl ester, 14 g (80 mmol) of α,α'-dichloro-m-xylene, 4.25 g (30.8 mmol) of anhydrous, granular potassium carbonate, and 70 mL of acetonitrile was stirred and refluxed for 4 hr. After being cooled, the resulting mixture was diluted with 200 mL of ether and filtered with suction. The solids were washed thoroughly with ether and then the filtrate and washes were combined and concentrated in vacuo. The oily residue was chromatographed on 100 g of silica gel. Elution with 19:1 hexane-ether afforded 1.74 g (54.6%) of 2-[3-(chloromethyl)phenylmethoxy]benzenepropanoic acid methyl ester as a colorless oil.

reactant | 2-hydroxybenzenepropanoic acid methyl ester | 10 mmol, 1.8 g | COC(CCC1=C(C=CC=C1)O)=O | C10H12O3
reactant | α,α'-dichloro-m-xylene | 80 mmol, 14 g | ClCC1=CC(=CC=C1)CCl | C8H8Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 70 mL | C(C)#N | C2H3N
solvent | ether | 200 mL | CCOCC | C4H10O
product | 2-[3-(chloromethyl)phenylmethoxy]benzenepropanoic acid methyl ester | 1.74 g, 54.6% | COC(CCC1=C(C=CC=C1)OCC1=CC(=CC=C1)CCl)=O | C18H19ClO3
